US07790732B2
a) 1-(2-Amino-6-chloro-phenyl)-ethanone
A suspension of 2-amino-6-chlorobenzonitrile (3.67 g, 24 mmol) in diethyl ether (60 ml) was added slowly to methylmagnesium bromide (56 ml, 3 M in Et2O, 170 mmol), and the mixture was heated to reflux, until all starting material was consumed (3 h, HPLC control). The mixture was then placed in an ice bath, and HCl (6M, 58 ml) was slowly added (vigorous reaction). The mixture was then again heated to reflux, cooled and made alkaline by addition of solid Na2CO3. The mixture was extracted several times with ethyl acetate, the combined organic phases were dried (Na2SO4), and the solvent was evaporated under reduced pressure. Purification of the residue by column chromatography (silica gel, solvent gradient n-heptan/ethyl acetate=100/0−60/40) gave the title compound (2.72 g, 67%). 1H NMR (CDCl3): δ 2.65 (3H, s), 4.91 (2H, bs), 6.58 (1H, d), 6.73 (1H, d), 7.07 (1H, t).

reactant | 2-amino-6-chlorobenzonitrile | 24 mmol, 3.67 g | NC1=C(C#N)C(=CC=C1)Cl | C7H5ClN2
reactant | methylmagnesium bromide | 170 mmol, 3 M, 56 ml | C[Mg]Br
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | 1-(2-Amino-6-chloro-phenyl)-ethanone | 2.72 g, 67% | NC1=C(C(=CC=C1)Cl)C(C)=O | C8H8ClNO
